US08455665B2
(S)-3-[(R)-1-(3-Chloro-2-trifluoromethylphenoxy)-2-isopropylsulfanylethyl]pyrrolidine
(S)-3-((R)-1-Hydroxy-2-isopropylsulfanylethyl)pyrrolidine-1-carboxylic acid t-butyl ester (10 mg, 0.030 μmol) was dissolved in DMF (166 μL). NaH (1.7 mg, 69.1 μmol) was added and the mixture was stirred at room temperature for 15 minutes. 2-Chloro-6-fluorobenzotrifluoride (20.6 mg, 104 μmol) was added and the mixture was stirred at 100° C. for 1 hour. The mixture was cooled to room temperature, concentrated then dissolved in 1.2M HCl in EtOH (1.0 mL, 1.2 mmol) and stirred overnight at room temperature. The product was concentrated and the crude product was dissolved in 1:1 AcOH/H2O (1.5 mL) then purified by preparative HPLC to yield the title compound as a mono-TFA salt (9.2 mg, purity 94%). MS m/z: [M+H]+ calcd for C16H21ClF3NOS, 368.10. found 368.0.

reactant | (S)-3-((R)-1-Hydroxy-2-isopropylsulfanylethyl)pyrrolidine-1-carboxylic acid t-butyl ester | 0.030 μmol, 10 mg | C(C)(C)(C)OC(=O)N1C[C@H](CC1)[C@H](CSC(C)C)O | C14H27NO3S
reactant | NaH | 69.1 μmol, 1.7 mg | [H-].[Na+]
reactant | 2-Chloro-6-fluorobenzotrifluoride | 104 μmol, 20.6 mg | ClC1=C(C(=CC=C1)F)C(F)(F)F | C7H3ClF4
reactant | EtOH | 1.2 mmol, 1.0 mL | CCO | C2H6O
solvent | DMF | 166 μL | CN(C)C=O | C3H7NO
solvent | HCl | 1.2M | Cl | ClH
product | (S)-3-[(R)-1-(3-Chloro-2-trifluoromethylphenoxy)-2-isopropylsulfanylethyl]pyrrolidine | ClC=1C(=C(O[C@@H](CSC(C)C)[C@@H]2CNCC2)C=CC1)C(F)(F)F | C16H21ClF3NOS
